US08404841B2
Preparation of ((4S,6R)-6-((diisopropylcarbamoyl)methyl)-2,2-dimethyl-1,3-dioxan-4-yl)methyl acetate (Formula-15a)
Heated the reaction mixture of 250 grams of 2-((4R,6S)-6-(chloromethyl)-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropylacetamide, 225 grams of sodium acetate and 290 grams of tetra butyl ammonium bromide to 110-115° C. Stirred the reaction for 12 hours at 110-115° C. Diluted the reaction mixture with petroleum ether and filtered the byproduct. Organic layer washed with water. Distilled the solvent completely under reduced pressure. Isolated the material in petroleum ether. Dried the material at 40-45° C. to get the title compound.

reactant | 2-((4R,6S)-6-(chloromethyl)-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropylacetamide | 250 grams | ClC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C(C)C)C(C)C | C15H28ClNO3
reactant | sodium acetate | 225 grams | C(C)(=O)[O-].[Na+]
catalyst | tetra butyl ammonium bromide | 290 grams | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | ((4S,6R)-6-((diisopropylcarbamoyl)methyl)-2,2-dimethyl-1,3-dioxan-4-yl)methyl acetate | C(C)(=O)OC[C@H]1OC(O[C@H](C1)CC(N(C(C)C)C(C)C)=O)(C)C | C17H31NO5
